US08461328B2
(1R,3R)-3-(5-Amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanol
A stirred suspension of 1-Benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (24.5 g, 72.6 mmol) in methanol (120 ml) was treated with (1R,3R)-3-Amino-cyclohexanol* (8.9 g, 76.3 mmol) and N,N-diisopropylethylamine (13.3 mL, 76.3 mmol), and stirred at 65° C. for three hours. The mixture was then cooled and 10% palladium on carbon (7.6 g, 3.6 mmol) was added. The mixture was pressurized to 100 psi with hydrogen and stirred at 50° C. for 18 h. Filtration and concentration afforded the desired product which was carried on directly into the next step. LCMS (Method P, ESI): RT=2.17 min, m+H=387.1. *Prepared following the procedures described in: P. Bernardelli et al./Tetrahedron: Asymmetry 15 (2004) 1451-1455

reactant | 1-Benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 72.6 mmol, 24.5 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | (1R,3R)-3-Amino-cyclohexanol | N[C@H]1C[C@@H](CCC1)O | C6H13NO
reactant | N,N-diisopropylethylamine | 76.3 mmol, 13.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 120 ml | CO | CH4O
catalyst | palladium on carbon | 3.6 mmol, 7.6 g | [Pd] | Pd
product | (1R,3R)-3-(5-Amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanol | NC=1C(=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2)N[C@H]2C[C@@H](CCC2)O | C19H22N4O3S
